Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male with history of childhood
epilepsy, chronic alcohol abuse complicated by alcohol 
withdrawal
seizures, seizure disorder on Vimpat/Keppra, who initially
presented to ___ after seizure post drinking, there had
another witnessed seizure, status post phenobarbital loading
there, transferred here for further management.  

Per report, patient was found seizing by his roommate on day of
presentation after they were done drinking, seizure lasting
approximately "30 minutes." Was confused, likely in postictal
state on arrival to ___. There had another witnessed
seizure lasting approximately 3 minutes with generalized
tonic-clonic movements. Was given phenobarbital 10 mg/kilogram
load, Ativan 4 mg IV, folic acid, thiamine, magnesium, normal
saline, and D5 LR. NC head CT was obtained which reportedly
showed no acute intracranial process, however report unavailable
to view. Was transferred here for further management.

Of note, patient with recent hospitalization ___ after
presenting with a breakthrough seizure in the setting of months
of uncontrolled seizures likely related to medication
non-adherence and alcohol withdrawal. He was found to have
multiple small hematomas on brain MRI, likely from his fall 
after
having a seizure and was evaluated by neurosurgery who did not
recommend intervention. His mental status has returned to
baseline and he was restarted on his AEDs at home doses.

ED Course notable for: 
Vitals: T 99 T max 100.8 HR 122 BP 137/90 RR 19 O2 96%3L
Gen: Smells of alcohol, somnolent, arousable to loud voice
HEENT: NC/AT. EOMI. 
Neck: No swelling. Trachea is midline. No JVD
Cor: RRR. No m/r/g. 
Pulm: Rhonchorous bilaterally in the bases R > L
Abd: Soft, NT, ND. Bowel sounds present
Ext: No edema, cyanosis, or clubbing. 
Skin: No rashes. No skin breakdown
Neuro: Moving all 4 extremities
Psych: Normal mentation. 
Heme: No petechia. No ecchymosis.

___ Labs:
- WBC 5, Hb 14.4, PLT 97
- Na 136, K 4, Cl 96, BUN 8, Cr 0.5, glucose 111
- AST 119, ALT 52, ALP 140. T. bili 1.6
- U tox pending
- EtOH level 136 

___ Labs:
- WBC 4.1, Hb 12.9, PLT 56
- Phos 1.4
- Lactate 3.2
- Trop <0.01

Administered: 
___ 00:08 IVF  ___ (1000 mL ordered) Started 250
mL/hr 
___ 01:22 IV Acetaminophen IV 1000 mg  
___ 01:26 IV CefePIME (2 g ordered) 

On arrival to the MICU,

Subjective: Unable to obtain any meaningful history. Patient
somnolent, arousable to voice. Speech garbled. Unable to respond
in the hallway to ROS questioning.

 
Past Medical History:
- Seizure disorder (grand mal seizures as a child, then in 
remission for many years until recent recurrence) 
- ETOH Abuse, prior EtOH w/d Seizures.  Currently 8 weeks sober.
- Chronic Hyponatremia
 
Social History:
___
Family History:
-No family history of seizures
 
Physical Exam:
ADMISSION PHYSICAL EXAM
===========================
GENERAL: Somnolent, arousable to voice 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD. No nuchal rigidity 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Tachycardic, regular rhythm, normal S1 S2, no murmurs, rubs,
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema    
NEURO: CN II-XII grossly intact. No focal neurological deficits 

DISCHARGE PHYSICAL EXAM 
========================
PHYSICAL EXAMINATION
 Vitals:  24 HR Data (last updated ___ @ 1020)
    Temp: 97.4 (Tm 98.3), BP: 147/93 (104-147/71-93), HR: 90
(90-103), RR: 18, O2 sat: 98% (98-99), O2 delivery: RA  
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, +facial telangiectasia 
 Neck: Supple
 Pulmonary: breathing comfortably in room air
 Cardiac: warm and well perfused
 Abdomen: non distended
 Extremities: No ___ edema.
 Skin: +telangiectasia and spider angiomata 

Neurologic:
-Mental Status: Awake, alert, speech fluent with mild 
dysarthria,
oriented to hospital. 

-Cranial Nerves: PERRL 3 to 2mm and brisk. EOMI with ___ beats 
of
nystagmus on end gaze bilaterally, No facial droop, Hearing
intact to conversation. Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Bilateral tremor without asterixis. Antigravity and
spontaneous throughout 

-Sensory: No deficits to light touch. 

-DTRs: deferred 

-___: Bilateral intention tremor. No dysmetria with 
FNF.

-Gait: not assessed 

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:07AM BLOOD WBC-4.1 RBC-4.21* Hgb-12.9* Hct-38.2* 
MCV-91 MCH-30.6 MCHC-33.8 RDW-15.1 RDWSD-49.6* Plt Ct-56*
___ 12:07AM BLOOD Neuts-76.5* Lymphs-14.3* Monos-8.3 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-3.15 AbsLymp-0.59* 
AbsMono-0.34 AbsEos-0.01* AbsBaso-0.02
___ 12:07AM BLOOD ___ PTT-29.0 ___
___ 12:07AM BLOOD Glucose-137* UreaN-5* Creat-0.5 Na-138 
K-3.7 Cl-100 HCO3-25 AnGap-13
___ 12:07AM BLOOD ALT-48* AST-105* AlkPhos-126 TotBili-1.4
___ 12:07AM BLOOD Lipase-28
___ 12:07AM BLOOD cTropnT-<0.01
___ 12:07AM BLOOD Albumin-3.7 Calcium-8.6 Phos-1.4* Mg-2.3
___ 05:41AM BLOOD HBsAg-NEG HBsAb-PND HBcAb-NEG
___ 05:41AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:41AM BLOOD HCV Ab-NEG
___ 12:33AM BLOOD Lactate-3.2*

IMPORTANT INTERVAL LABS 
========================
Vimpat level: 2.6
LEVETIRACETAM (KEPPRA) 
  Test                          Result              Reference 
Range/Units
LEVETIRACETAM                 10.1                mcg/mL

___ 05:41AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 10:34AM BLOOD HIV Ab-NEG
___ 05:41AM BLOOD HCV Ab-NEG 
 
Discharge Labs 
================
___ 05:50AM BLOOD WBC-2.3* RBC-3.73* Hgb-11.5* Hct-34.7* 
MCV-93 MCH-30.8 MCHC-33.1 RDW-15.5 RDWSD-53.1* Plt Ct-40*
___ 05:50AM BLOOD Neuts-55.6 ___ Monos-13.2* 
Eos-1.7 Baso-0.9 Im ___ AbsNeut-1.30* AbsLymp-0.66* 
AbsMono-0.31 AbsEos-0.04 AbsBaso-0.02
___ 05:50AM BLOOD ___ PTT-31.0 ___
___ 05:50AM BLOOD Glucose-92 UreaN-6 Creat-0.5 Na-142 K-3.6 
Cl-107 HCO3-22 AnGap-13
___ 05:50AM BLOOD ALT-30 AST-54* AlkPhos-114 TotBili-1.6*
___ 05:50AM BLOOD Albumin-3.3* Calcium-8.5 Phos-3.3 Mg-1.7

IMAGING
========
CT done at OSH no additional imaging done this hospitalization 

 
Brief Hospital Course:
Mr. ___ is a ___ male with history of childhood 
epilepsy, chronic alcohol abuse complicated by alcohol 
withdrawal seizures, seizure disorder on Vimpat/Keppra, who 
initially presented to ___ after seizure post drinking, 
there had another witnessed seizure, status post phenobarbital 
loading there, transferred to ___ for further management. 
Initially admitted to ___ given concern for withdrawal 
seizures.

#Seizure - History of chronic EtOH abuse c/b withdrawal, and 
seizure disorder on keppra/vimpat, presenting with reported 
witnessed seizure at home after drinking and an additional 
3-minute generalized tonic-clonic seizure at ___. S/p 
phenobarb load there also requiring 4mg Ativan. I suspect that 
this is less likely related to withdrawal seizure given reported 
recent history of drinking and positive EtOH level at OSH. Given 
history of nonadherence to AEDs, seizure possibly in this 
context. Patient was restarted on home AEDs and eventually 
transferred to the neurology service for further management. He 
was continued on home AEDs without recurrence of seizures. 
Levels were checked and Vimpat level was 2.6, Keppra 10.1. 

#Fever - Febrile in ED, also tachycardic unclear source. Highest 
suspicion for aspiration PNA. CXR at OSH without obvious focal 
consolidation. No meningeal signs on exam. S/p cefepime in ED. 
Given suspicion for aspiration and hypoxemia, treated with IV 
unasyn for aspiration pneumonitis. He was switched to augmentin 
at time of discharge to complete 7 day course of abx to end on 
___. 

#EtOH abuse
#Agitation - History of EtOH abuse previously would drink 8 
nips/day (~240cc of liquor). S/p phenobarb loading at OSH. No 
signs of withdrawal on admission. Also started on thiamine 500mg 
IV TID, folic acid 1mg daily, and multivitamin. After discharge 
from MICU patient scored on CIWA multiple times requiring rescue 
diazepam. In addition he was agitated and was assessed by 
psychiatry for capacity to leave AMA which at the time of 
assessment was found not to have capacity. His labs stabilized 
and he was felt safe to be discharged home with ___ and follow 
up with primary care and Neurology. 

#Thrombocytopenia - PLT 56 on admission, recently had been in 
200s but felt likely reactive iso SDH. Of note has been as low 
as ___ in ___. Suspect myelosuppression from EtOH use and 
splenic sequestration from likely cirrhosis. Also sent testing 
for hepatitis to confirm which were was normal. HIV was negative 
as well.

#Cirrhosis
#Alocholic Hepatitis: On admission there was mild elevation of 
AST/ALT which improved. His Tbili rose to max of 2.2 but down 
trended to 1.6

Transitional Issues 
=====================
[]please re-check LFTs, CBC w/ diff, INR, and Chem7 on ___ 
Fax to ___ Att: Dr. ___
[]patient discharged with ___ 
[]Follow up with PCP 
[]Follow up scheduled with BI epilepsy NP and Neurology 
[]Recommend referral to hepatology for cirrhosis 
[]Highly recommend alcohol detox program if patient is amenable 

#Contact: ___ 
Relationship: sister 
Phone number: ___ 
Comments: alternate is girlfriend ___ ___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. LACOSamide 200 mg PO BID 
2. LevETIRAcetam 1500 mg PO BID 
3. Vitamin D 1500 UNIT PO DAILY 
4. Calcium Carbonate 500 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 5 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*8 Tablet Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Chewable-Vite]  1 tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*0 
3.  Nicotine Patch 14 mg/day TD DAILY 
RX *nicotine 14 mg/24 hour Apply once a day daily Disp #*1 
Package Refills:*0 
4.  Calcium Carbonate 500 mg PO DAILY  
5.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
6.  LACOSamide 200 mg PO BID  
7.  LevETIRAcetam 1500 mg PO BID  
8.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
9.  Vitamin D 1500 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
epilepsy
alcoholic hepatitis
alcohol withdraw 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with seizures.  We gave you your seizure 
medicines and you did not have any further seizures.  Your 
platelets are low, which is not new, but they did drop quite a 
bit while you've been here in the hospital. These stabilized 
prior to you going home. Your bilirubin blood level, which is 
related to your liver, increased during admission this peaked 
and went down prior to your discharge. Both of these are from 
your alcohol use. 

It is important that you take your medication as prescribed and 
that you follow up with your  Neurologist to help adjust your 
medications so you have better 
seizure control. In order to help with taking your medications, 
we have set up ___ to help you manage your medical conditions 
and help you take your medications 

Your medications regimen is as follows:
Keppra 1500mg (2 pills of 750mg each) twice per day
Vimpat 200mg (1 pill of 200mg) twice per day

We also prescribed you some vitamins to help with your 
nutrition. 

We also strongly recommend that you go to outpatient alcohol 
rehab. We are worried that you may pass away if you continue to 
drink. 
 
Followup Instructions:
___